US07741341B2
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,6-dimethyl-piperidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,6-dimethyl-piperidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 100 mg (0.20 mmol) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid and 50.0 μl (0.40 mmol) 2,6-dimethyl-piperidine. The title compound was obtained as its formiate in form of a white amorphous solid. Yield: 72 mg MS (ES+): m/e=594, chloro pattern.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 0.20 mmol, 100 mg | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C24H27ClN6O4
reactant | 2,6-dimethyl-piperidine | 0.40 mmol, 50.0 μl | CC1NC(CCC1)C | C7H15N
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,6-dimethyl-piperidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC(NC1=NC=C(C=C1)Cl)=O)C=CC=C2C(=O)N2C(CCCC2C)C | C31H40ClN7O3
